US04804400
Preparation of N-(2-fluoro-4-chlorophenyl)-2,3-dimethylmaleic acid imide
A mixture of 126 g (1.0 mol) of dimethylmaleic anhydride, 145.5 g (1.0 mol) of 2-fluoro-4-chloroaniline and 2 g of 4-dimethylaminopyridine is heated under reflux in 800 ml of o-xylene for 16 hours using a water separator. The whole is then evaporated to dryness in vacuo and the residue is dissolved in a 1:1 mixture of ethyl acetate:ether and washed with each of 1N hydrochloric acid, 1N sodium hydroxide solution and water. Afer drying over sodium sulphate and evaporating off the solvent, the residue (227.5 g) is recrystallised from methanol. In this manner there are obtained 211.1 g (84% of the theoretical yield) of the title product in the form of colourless crystals which melt at 96°-97°.

reactant | dimethylmaleic anhydride | 1.0 mol, 126 g | C/C/1=C(/C(=O)OC1=O)\C | C6H6O3
reactant | 2-fluoro-4-chloroaniline | 1.0 mol, 145.5 g | FC1=C(N)C=CC(=C1)Cl | C6H5ClFN
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-xylene | 800 ml | CC=1C=CC=CC1C | C8H10
product | N-(2-fluoro-4-chlorophenyl)-2,3-dimethylmaleic acid imide | FC1=C(C=CC(=C1)Cl)N1C(C(=C(C1=O)C)C)=O | C12H9ClFNO2
